US08236887B2
Into a 50 ml autoclave were poured 0.20 g (5 mmol) of metallic potassium and tetrahydrofuran (10 ml), and the inside of the autoclave was cooled to −78° C., and evacuation and replacement by nitrogen were carried out three times. Then thereto was added a solution obtained by dissolving 1.36 g (20 mmol) of imidazole in tetrahydrofuran (10 ml) at 10° C. over 30 minutes under pressurized nitrogen atmosphere. Thereafter tetrafluoroethylene (TFE) was introduced until the inside pressure of the system reached 0.1 MPa·G. Then the temperature of the reaction system was increased to 100° C., and TFE was further introduced to maintain the inside pressure of the reaction system at 0.3 to 0.5 MPa·G. Supply of TFE was stopped when the amount of TFE reached 1.1 equivalents (2.2 g=22 mmol) to imidazole, and stirring was continued at 100° C. Eight hours after starting of the stirring, the inside of the reaction system was brought to room temperature, followed by evacuation to terminate the reaction. To this crude reaction product was added 1.42 g (10 mmol) of ethyl trifluoroacetate, and it was confirmed by a 19F-NMR analysis based on ethyl trifluoroacetate that 1-(1,1,2,2-tetrafluoroethyl)imidazole had been produced at yield of 55% and 1-(1,2,2-trifluoroethenyl)imidazole had been produced at yield of 23%. Also according to gas chromatography, it was confirmed that 9% of imidazole remained.

reactant | potassium | 5 mmol, 0.20 g | [K] | K
reactant | imidazole | 20 mmol, 1.36 g | N1C=NC=C1 | C3H4N2
reactant | tetrafluoroethylene | FC(=C(F)F)F | C2F4
reactant | ethyl trifluoroacetate | 10 mmol, 1.42 g | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | 1-(1,1,2,2-tetrafluoroethyl)imidazole | FC(C(F)F)(F)N1C=NC=C1 | C5H4F4N2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(1,2,2-trifluoroethenyl)imidazole | yield of 55% | FC(=C(F)F)N1C=NC=C1 | C5H3F3N2
